US07547710B2
To a solution of (2E)-3-[(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]acrylic acid (0.30 g, 0.63 mmol) in N,N-dimethylformamide (10 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.23 g, 1.2 mmol) and 1-hydroxy-1H-benzotriazole ammonium salt (0.18 g, 1.2 mmol) and the mixture was stirred at room temperature for 12 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl {[6-[(1E)-3-amino-3-oxoprop-1-en-1-yl]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.25 g, yield 83%) as pale-yellow crystals.

reactant | (3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]acrylic acid | 0.63 mmol, 0.30 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C(C(=O)O)=C)CC(C)C | C29H34N2O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.2 mmol, 0.23 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole ammonium salt | 1.2 mmol, 0.18 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl {[6-[(1E)-3-amino-3-oxoprop-1-en-1-yl]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 0.25 g, yield 83% | NC(/C=C/C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)=O | C29H35N3O3
